US05225402
A mixture of N-(1-benzyl-4-piperidinyl)-o-hydroxymethylaniline (2.9 g), chloroform (100 ml) and manganese dioxide (12 g) is refluxed for 1 hour. After cooling, the mixture is filtered and the filtrate is concentrated. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane) to give N-(1-benzyl-4-piperidinyl)-o-formylaniline (2.4 g) as yellow powders, m.p. 87°-90° C.

reactant | N-(1-benzyl-4-piperidinyl)-o-hydroxymethylaniline | 2.9 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1)CO | C19H24N2O
catalyst | manganese dioxide | 12 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-benzyl-4-piperidinyl)-o-formylaniline | 2.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1)C=O | C19H22N2O
